US03946009
By replacing the p-methylphenylglycine employed in Procedure 14, Step A by an equivalent quantity of cyclopentylglycine, there is obtained cyclopentylglycinamide. Substituting this cyclopentylglycinamide for that employed in Procedure 13 and following the methods described in Steps A and B of Procedure 13, there is obtained in Step A 2-hydroxy-3-cyclopentylpyrazine and in Step B 2-chloro-3-cyclopentylpyrazine.

reactant | p-methylphenylglycine | CC1=CC=C(C=C1)NCC(=O)O | C9H11NO2
reactant | cyclopentylglycine | C1(CCCC1)NCC(=O)O | C7H13NO2
product | cyclopentylglycinamide | C1(CCCC1)NCC(=O)N | C7H14N2O
